data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_155115_1,[N:1]([N:2]([H:8])[H:9])(/[C:4](=[C:6](\[N:3]([H:10])[H:11])[H:14])[H:12])[C:5](=[C:7]([H:15])[H:16])[H:13]>>[N:1](\[N:2]([H:8])[H:9])=[C:4](/[C:6]([N:3]([H:10])[H:11])([C:5](=[C:7]([H:15])[H:16])[H:13])[H:14])[H:12],65.81408249998276
MR_494942_1,[C:1]([N:2](/[C:3]([N:7][N:6][O:5][H:9])=[N:8]\[H:12])[N:4]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:2]([N:4]([H:10])[H:11])[N:6]([O:5][H:9])[N:7][C:3][N:8][H:12])([H:13])([H:14])[H:15],54.126894999991606
MR_181388_1,[C:1]([C:2]([C:6]([C:3]([N:4]([H:10])[H:11])[C:7]([N:5]([H:12])[H:13])[H:15])[H:14])[O:8][H:9])([H:16])([H:17])[H:18]>>[C:1]([C:2]1([O:8][H:9])[C:6]([H:14])=[C:3]([N:4]([H:10])[H:11])[C:7]1([N:5]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18],28.868137500022897
MR_90514_0,[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])=[O:7])([N:5]([H:11])[H:12])([O:6][H:8])[H:10]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([C:4](=[O:7])[H:10])([N:5]([H:11])[H:12])[O:6][H:8],65.63775499999991
MR_241444_0,[C:1]1([O:6][C:4](=[O:7])[H:10])([H:8])[C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[O:5]1>>[C:1]([O:5][C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:7])[H:10])[H:9])(=[O:6])[H:8],63.801062500000114
MR_570111_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:6](=[C:8](\[C:5]([H:22])([H:23])[H:24])[H:12])[O:9][H:11])[C:7]([C:4]([H:19])([H:20])[H:21])=[O:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:6]([C@@:8]([C:5]([H:22])([H:23])[H:24])([C:7]([C:4]([H:19])([H:20])[H:21])=[O:10])[H:12])[O:9][H:11],53.10344250000739
MR_573380_0,[C:1]([C:2]([N:5](/[N:7]=[N:8]/[H:11])[H:10])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:6][H:9]>>[C:1]([C:2]([N:5]([N:7]([C:4]([H:17])([H:18])[H:19])[N:8]([H:9])[H:11])[H:10])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[O:6],71.28839250000112
MR_78317_1,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:6]([C:3]([H:14])([H:15])[H:16])=[C:7]([C:4]([H:17])([H:18])[H:19])[C:5]([H:20])([H:21])[H:22])([O:8][H:9])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:6](/[C:3]([H:14])([H:15])[H:16])[C:7]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:8][H:9])[H:10],63.09763500002831
MR_237490_0,[C:1]([C:3]([C:2]([H:8])([H:11])[H:12])=[N:5][N:6]=[C:4]([H:13])[H:14])([H:7])([H:9])[H:10]>>[C:1]([C:3]1([C:2]([H:8])([H:11])[H:12])[C:4]([H:13])([H:14])[N:6]=[N:5]1)([H:7])([H:9])[H:10],51.763102499967175
MR_492614_1,[C:1]([O:5][C:4]1([H:11])[N:6]=[C:2]([N:3]([H:8])[H:9])[N:7]1[H:10])([H:12])([H:13])[H:14]>>[C:1]([O:5]/[C:4](=[N:6]\[C:2]([N:3]([H:8])[H:9])=[N:7]/[H:10])[H:11])([H:12])([H:13])[H:14],24.499482499995224
MR_56063_0,[C:1](/[N:7]=[C:5](\[C:2]([H:15])([H:16])[H:17])[N:3]([C:4]([N:6]([H:10])[H:11])=[O:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:7]([C:4]([N:6]([H:10])[H:11])=[O:8])/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:3]/[H:9])([H:12])([H:13])[H:14],46.876759999998114
MR_6931_0,[C:1]([C:3]([H:12])([H:13])[H:14])([O:5][C:4]([C:2]([H:9])([H:10])[H:11])=[O:6])([H:7])[H:8]>>[C:1]([C:3]([H:12])([H:13])[H:14])([O:6][C:4]([C:2]([H:9])([H:10])[H:11])=[O:5])([H:7])[H:8],49.58693250000408
MR_646271_1,[C:1](/[C:3]([N:4]([H:10])[H:11])=[N:8]\[C:2](=[C:6](/[N:5]([H:12])[H:13])[H:14])[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1]([C:3]1([N:4]([H:10])[H:11])[C:6]([N:5]([H:12])[H:13])([H:14])[C:2]([O:7][H:9])=[N:8]1)([H:15])([H:16])[H:17],36.226202500029245
MR_256100_1,[C:1](/[C:5](=[C:4](\[N:2]([O:6][C:3](=[O:7])[H:9])[H:8])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:5]([C:3](=[O:7])[H:9])([C@@:4]1([H:10])[N:2]([H:8])[O:6]1)[H:11])([H:12])([H:13])[H:14],66.46166250002423
MR_628540_1,[C:1]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])=[N:9][C:8]1([C:6]([H:19])([H:20])[H:21])[C:2]([C:7]([H:22])([H:23])[H:24])([H:10])[C:3]1([H:11])[H:12]>>[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[C:2]([C:7]([H:22])([H:23])[H:24])([H:10])[C:8]([C:6]([H:19])([H:20])[H:21])=[N:9]1,51.17764499998288
MR_694175_0,[C:1](=[N:5][C:4]1([H:8])[C:3]([C:2]([H:11])([H:12])[H:13])([H:7])[O:6]1)([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])(/[N:5]=[C:4](\[C:3](=[O:6])[H:7])[H:8])([H:9])[H:10],62.36346000002712
MR_242039_0,[C:1]([N:6]([H:10])[H:11])([C:7](=[C:5]([C:3]([H:16])([H:17])[H:21])[C:4]([H:18])([H:19])[H:20])[H:12])([O:8][C:2]([H:13])([H:14])[H:15])[H:9]>>[C:1]1([N:6]([H:10])[H:11])([H:9])[C:5]([C:3]([H:16])([H:17])[H:21])([C:4]([H:18])([H:19])[H:20])[C:7]1([O:8][C:2]([H:13])([H:14])[H:15])[H:12],58.92664250000095
MR_92646_1,[C:1]([C:2]([C:6]([C:5]([H:19])([H:20])[H:21])=[O:8])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[C:7](=[O:9])[H:10]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[C:2]([H:11])([H:12])[C@@:6]1([C:5]([H:19])([H:20])[H:21])[O:8][C:7](=[O:9])[H:10],72.59108249995805
MR_652703_0,[C:1](/[C:2](=[C:3](/[O:6][H:10])[H:12])[O:5][H:9])([O:4][H:8])=[N:7]/[H:11]>>[C:1]1([O:4][H:8])=[C:2]([O:5][H:9])[C:3]([O:6][H:10])([H:12])[N:7]1[H:11],49.23804250002888
